US05387585
6. 13 g of 5,10-dimethylimidazo[1,2-c]quinazoline in 350 ml of 6N hydrochloric acid are stirred at 95° C. and then cooled in an ice bath. The reaction solution is poured into 30 ml of 25% ammonia and stirred in an ice bath for 10 min. The crystals are filtered off, washed with water and dried in a vacuum. 10.1 g of 3-methyl-2-(1H-2-imidazolyl)aniline are obtained. The filtrate is extracted three times with chloroform. The extracts are evaporated in a vacuum. A further 1.4 g of 3-methyl-2-(1H-2-imidazolyl) aniline are obtained. The m.p. lies at 174°-175° C. after recrystallization from ethyl acetate.

reactant | 5,10-dimethylimidazo[1,2-c]quinazoline | 13 g | CC1=NC=2C=CC=C(C2C=2N1C=CN2)C | C12H11N3
reactant | ammonia | 30 ml | N | H3N
solvent | hydrochloric acid | 6N, 350 ml | Cl | ClH
product | 3-methyl-2-(1H-2-imidazolyl)aniline | 10.1 g | CC=1C(=C(N)C=CC1)C=1NC=CN1 | C10H11N3
